US06140100
According to example 17, 1.84 g of 3-(3-pentyl)benzyl alcohol was treated with 0.34 mL of PBr3 in 25 mL of anhydrous CH2Cl2 to afford 2.23 g (90%) of 3-(3-Pentyl)benzyl bromide as a clear liquid.

reactant | 3-(3-pentyl)benzyl alcohol | 1.84 g | CCC(CC)C=1C=C(CO)C=CC1 | C12H18O
reactant | PBr3 | 0.34 mL | P(Br)(Br)Br | Br3P
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | 3-(3-Pentyl)benzyl bromide | 2.23 g, 90% | CCC(CC)C=1C=C(CBr)C=CC1 | C12H17Br
